Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / prochlorperazine / propoxyphene / adhesive tape
 
Attending: ___
 
Chief Complaint:
L hemibody sensory changes 
 
Major Surgical or Invasive Procedure:
N/A 

 
History of Present Illness:
Neurology at bedside for evaluation after code stroke activation
within: <5> minutes

Time/Date the patient was last known well: 11AM

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not given/considered: TPA already given
at ___ at 12:42pm

Endovascular intervention: []Yes [x]No

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale - Total [3]

1a. Level of Consciousness -
1b. LOC Questions -
1c. LOC Commands -
2. Best Gaze -
3. Visual Fields -
4. Facial Palsy -
5a. Motor arm, left -
5b. Motor arm, right -
6a. Motor leg, left -
6b. Motor leg, right -
7. Limb Ataxia -1
8. Sensory -1
9. Language -
10. Dysarthria -
11. Extinction and Neglect -1

HPI: 
___ R handed female with hx of PTSD, ADD, Anxiety,
hypo/hyperthyroidism, here after abrupt onset of left
face/arm/leg sensory changes and mild weakness after playing
tennis. 

She was in her normal state of health from 9 to 10:30 AM  
playing
tennis. She remarks that she played well without difficulty.  
She
got home and was addressing envelopes standing at the kitchen
counter when she felt onset of tingling/electric currents going
through her entire body and then had sudden onset of sensation
that the left side of her body was not functioning properly. 
When asked to define this further she states that the left side
face arm and leg feel numb and therefore she cannot tell what is
she is doing with the extremity.  It is possible that she was
clumsy but she did not specifically reach for anything and miss
or drop any objects.  She felt that she had to sit down because
her left side was not functioning but her leg did not give out
from underneath her.  She reached for the telephone to call
someone but then a family member entered and called the 
ambulance
that took her to ___.

Her symptoms initially rapidly improved on arrival to ___.  She 
was evaluated via tele-stroke and was noted to have delayed 
activation of the left face, sensory deficits in the left face 
arm and leg and dysmetria on the left.  Noncontrast head CT 
showed no bleed or developing infarct.  She received TPA
ordered at 1221 and finished at 1242.

At around 1:15 ___ she had recurrence of some of her symptoms. 
Noncontrast head CT was repeated with no hemorrhagic
transformation.  Initially family requested transfer to ___ but
they were not accepting --  therefore patient routed to ___. 

In the ambulance over to ___ she began to feel nauseous but
denies any true room spinning or oscillopsia.  Her nausea does
worsen when her eyes are open.  This resolved during her ED
course after some antiemetics.

On arrival to the ED,  she was extremely anxious and reported an
increase in the left face arm and leg numbness.  her ___ stroke
scale was as above and noncontrast head CT showed no hemorrhagic
transformation.  CTA head and neck showed no vessel cut off but
did appear to show a small focal stenosis in the right PCA on
reconstructions on my read.  Full exam is below

On review of systems patient also endorsed a mild headache 
versus
pressure-like sensation on the left side of her head.  No recent
illness.  No chest pain, neck pain, shortness of breath.

 
Past Medical History:
Hypo-versus hyperthyroidism
PTSD
ADD
Anxiety
MCL injury status post repair

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: 97, HR 83, 180/77, RR 16, 96% on room air

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: No increased WOB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody.  No apraxia. No
evidence of hemineglect. No left-right confusion. Able to follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone - some atrophy of the intrinsic
muscles of the feet. Right arm pronates but with encouragment
does not drift. No tremor or asterixis.
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA][Gas]
L   4+    5    5    5    5-  5    5     5   5    5  
R   5     5    5    5    5   5    5     5   5    5   
 
**Significant motor impersistence on the left with her eyes
closed. However, when encouraged and she looks at the extremity,
full strength in many muscles aside from the deltoid and finger
extensors. 

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response extensor on the left, flexor on the right.  

- Sensory: Decreased LT and PP in the left face, arm, and leg.
+extinction for DSS. Signs for cortical sensory loss not
performed due to clear decreased sensation on the left.  

- Coordination: L dysmetria - not clearly appreciable with FNF
but there is clear overshoot with mirroring on the left. Slowed
finger tapping on the left compared to the right. 

- Gait: Deffered because of nausea, anxiety. 
DISCHARGE EXAM 
As above, with exception of improved sensory testing. Diminished 
sensation to pinprick and light touch in left hand only, without 
involvement of proprioception.
 
Pertinent Results:
LABORATORY EVALUATION:

___ 02:40PM BLOOD WBC-13.8* RBC-4.18 Hgb-13.1 Hct-39.0 
MCV-93 MCH-31.3 MCHC-33.6 RDW-11.9 RDWSD-41.1 Plt ___
___ 02:40PM BLOOD ___ PTT-26.3 ___
___ 02:40PM BLOOD Glucose-99 UreaN-17 Creat-0.8 Na-138 
K-4.5 Cl-97 HCO3-22 AnGap-19*
___ 02:40PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.9 Mg-2.0
___ 02:40PM BLOOD ALT-16 AST-23 AlkPhos-49 TotBili-0.3
___ 02:40PM BLOOD cTropnT-<0.01
___ 06:05AM BLOOD %HbA1c-5.2 eAG-103
___ 06:05AM BLOOD Triglyc-51 HDL-70 CHOL/HD-3.2 
LDLcalc-144*
___ 06:05AM BLOOD TSH-1.2
___ 06:05AM BLOOD CRP-2.1
___ 06:05AM BLOOD WBC-8.4 RBC-4.13 Hgb-12.9 Hct-39.0 MCV-94 
MCH-31.2 MCHC-33.1 RDW-12.1 RDWSD-41.9 Plt ___
___ 06:05AM BLOOD Glucose-94 UreaN-12 Creat-0.7 Na-144 
K-4.6 Cl-107 HCO3-24 AnGap-13

IMAGING AND OTHER EVALUATION:

CT/CTA head and neck ___:
1. No acute intracranial abnormality identified on non-contrast 
head CT.  
Please note MRI of the brain is more sensitive for the detection 
of acute 
infarct. 
2. Evaluation is limited secondary to poor opacification of the 
vessels, 
however within the limitations of the study, the vessels of the 
circle of 
___ and their principal intracranial branches appear normal 
without 
stenosis, occlusion, or aneurysm formation. 
3. As before, poor opacification of the vessels limits 
evaluation.  
Additionally, evaluation is also limited secondary to streak 
artifact from 
dental amalgams. However within the limitations of the study, 
the carotid and vertebral arteries and their major branches 
appear normal with no definite evidence of stenosis or 
occlusion. 

Chest XR ___:
No acute cardiopulmonary process. 

MRI head ___:
1. Small acute to subacute infarct within the right thalamus, 
with no definite evidence of hemorrhagic transformation. 
2. Probable mild chronic small vessel disease. 

Transthoracic echocardiogram ___:
IMPRESSION: Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
No definite structural cardiac source of embolism identified.

 
Brief Hospital Course:
SUMMARY: Patient is a ___ year old woman with history of of PTSD, 
ADD, Anxiety, hypo/hyperthyroidism, who presented to ___ on 
___ after developing acute onset of left face, arm and leg 
sensory changes after playing tennis. On arrival, NIHSS was 3. 
Neurologic exam was significant for delayed activation of left 
face with spontaneous speech that activated well on command, 
decreased sensation to pinprick and light touch to the left 
face/arm/leg, intact muscle strength aside from 4+/5 L deltoid 
and mild L finger extensor weakness. Otherwise, she had a slowed 
L finger tap, pronated L hand on testing but did not drift with 
encouragement. Given high suspicion for stroke and no 
contraindications, she received tPA. She was found to have a 
small right thalamic infarct, thought to be most likely small 
vessel in etiology, and discharged on aspirin. Her LDL was high 
at 144, and it was recommended she start on atorvastatin 40mg; 
patient preferred to consult with her PCP prior to starting this 
due to her history of medication sensitivities.

HOSPITAL COURSE BY PROBLEM:
#Right thalamic infarct: Patient was admitted to stroke 
neurology floor for post-tPA monitoring and stroke workup. She 
underwent MRI brain which revealed a punctate right thalamic 
infarct, consistent with her symptoms. Workup included CTA 
head/neck which was notable for small vessel ischemic changes, 
no significant amount of intracranial atherosclerosis or large 
vessel cutoff. Stroke risk factors included A1c 5.2, LDL 144. 
Despite the fact that she only had age and hyperlipidemia as 
stroke risk factors, the deep location of hemorrhage and overall 
clinical context was most consistent with small vessel disease 
as the most likely etiology. An echocardiogram was performed 
which did not show any significant structural or functional 
abnormalities. Risk factors were optimized by starting 
Atorvastatin 40mg daily and baby aspirin for secondary 
prevention. Of note, patient had a history of easy bruising, but 
did not have any known coagulopathy, significant GI bleeding or 
other comorbidities that would be consisted a contraindication 
for aspirin. In this case, risk-benefit analysis favored 
initiating aspirin for secondary prevention. 

TRANSITIONAL ISSUES:
[ ] Monitor for exacerbation of bruising on aspirin 81mg daily.
[ ] Recommend starting on atorvastatin 40mg daily.
[ ] Requires follow up with PCP and stroke neurology clinic, 
will be scheduled after the holiday weekend.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake?  Yes, confirmed 
done 
 2. DVT Prophylaxis administered? Yes   
 3. Antithrombotic therapy administered by end of hospital day 
2? Yes   
 4. LDL documented? Yes (LDL = 144)
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) Yes  
 6. Smoking cessation counseling given? No [reason  non-smoker]  

 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)?  Yes 
 8. Assessment for rehabilitation or rehab services considered? 
Yes 
 9. Discharged on statin therapy? Yes
10. Discharged on antithrombotic therapy?Yes [Type:Antiplatelet] 

 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vyvanse (lisdexamfetamine) 30 mg oral DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. estradiol 0.25 mg transdermal twice a week  
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Spironolactone 50 mg PO DAILY 
6. ClonazePAM 0.5 mg PO QHS 
7. TraZODone 50 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
3.  ClonazePAM 0.5 mg PO QHS  
4.  Escitalopram Oxalate 10 mg PO DAILY  
5.  estradiol 0.25 mg transdermal twice a week   
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  Spironolactone 50 mg PO DAILY  
8.  TraZODone 50 mg PO QHS  
9.  Vyvanse (lisdexamfetamine) 30 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right thalamic infarct
Hypercholesterolemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

You were hospitalized due to symptoms of left face/mouth and 
hand numbness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: 
- High cholesterol
- Age

We are changing your medications as follows:  
- We are starting low dose aspirin, an antiplatelet medication 
that will help reduce the risk of recurrent stroke.
- We recommend starting atorvastatin 40mg, a medication to lower 
cholesterol - this can be started with the approval of your PCP. 
We will provide you with a prescription should you decide to 
fill it.

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you. We wish you the best.

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___